US07767691B2
Preparation of 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile
To a suspension of 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (0.906 g, 3.24 mmol) in 1,2-dichloroethane (48 mL) was added AlCl3 (2.028 g, 15.3 mmol). The reaction was allowed to stir for 10 nm in and then TMSCN (2.04 mL, 15.3 mmol) was added. The reaction was sealed and heated to 85° C. for overnight. The reaction mixture was poured into a separatory funnel containing K2CO3 (aq satd) (200 mL) and EtOAc (200 mL). Extraction with EtOAc (3×200 mL) was performed. The combined organics were dried over MgSO4, filtered and concentrated under vacuum. The residue was dissolved in DMSO and purified by Gilson preparatory HPLC (w/0.1% TFA). The combined fractions were concentrated down under vacuum to remove the CH3CN. The resulting water layer was basified to pH=12 with 5N NaOH, and then extracted with EtOAc (3×150 mL). The combined fractions were dried over MgSO4, filtered, and concentrated under vacuum to give the title compound (0.53 g, 56.7%). EI-MS m/z 289 (M-H)+Rt (1.43 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 3.24 mmol, 0.906 g | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | AlCl3 | 15.3 mmol, 2.028 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | TMSCN | 15.3 mmol, 2.04 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | K2CO3 | 200 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dichloroethane | 48 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.53 g, 56.7% | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
